US09120761B2
(e) tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-ethylphenyl)piperidine-1-carboxylate (I41)
A solution of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (166 mg, 0.766 mmol) in 1:1 DCE: t-BuOH (5 mL) was stirred at 0° C. under nitrogen. 1.0 M Zinc(II) chloride in ether (0.77 mL, 0.77 mmol) was added and the mixture stirred for one hour. tert-Butyl 4-(4-amino-3-ethylphenyl)piperidine-1-carboxylate (I40) (212 mg, 0.70 mmol) in 1:1 DCE: t-BuOH (5 mL) was added dropwise, and after 30 minutes triethylamine (146 μL, 1.05 mmol) in 1:1 DCE: t-BuOH (5 mL) was added and the mixture allowed to slowly come to room temperature. After 18 hours the mixture was concentrated, and chromatography (12 g silica cartridge, 0-50% ethyl acetate/cyclohexane) gave the title compound (I41) (283 mg, 84% yield) as a pale pink solid; 1H NMR (400 MHz, CDCl3) δ 8.51 (d, J=0.6 Hz, 1H), 7.60 (d, J=8.3 Hz, 1H), 7.15-7.07 (m, 3H), 4.25 (s, 2H), 2.80 (t, J=12.1 Hz, 2H), 2.69-2.59 (m, 3H), 1.83 (d, J=12.9 Hz, 2H), 1.69-1.59 (m, 2H), 1.49 (s, 9H), 1.23 (t, J=7.6 Hz, 3H). LCMS Method C: rt 6.94 min; m/z 429.1 [M-tBu+2H]+, 385.1 [M-Boc+2H]+; m/z 483.1 [M−H]−.

reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 0.766 mmol, 166 mg | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | ether | 0.77 mmol, 0.77 mL | CCOCC | C4H10O
reactant | tert-Butyl 4-(4-amino-3-ethylphenyl)piperidine-1-carboxylate | 0.70 mmol, 212 mg | NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)CC | C18H28N2O2
reactant | triethylamine | 1.05 mmol, 146 μL | C(C)N(CC)CC | C6H15N
catalyst | Zinc(II) chloride | 1.0 M | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate cyclohexane | C(C)(=O)OCC.C1CCCCC1
solvent | t-BuOH | 5 mL | CC(C)(C)O | C4H10O
solvent | DCE | ClCCCl | C2H4Cl2
solvent | t-BuOH | 5 mL | CC(C)(C)O | C4H10O
solvent | t-BuOH | 5 mL | CC(C)(C)O | C4H10O
product | tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-ethylphenyl)piperidine-1-carboxylate | 283 mg, 84% yield | ClC1=NC(=NC=C1C(F)(F)F)NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)CC | C23H28ClF3N4O2
